US08242145B2
Step 1: 2-(3-Methoxy-phenyl)-propionitrile
To (3-methoxyphenyl)acetonitrile (1.0 g, 6.79 mmol) and iodomethane (0.42 mL, 6.79 mmol) in THF (10 mL) at 0° C. was added sodium bis(trimethylsilyl)amide (1M in THF; 6.8 mL, 6.8 mmol). The reaction was warmed to room temperature and stirred for 1 hour. The mixture was partitioned between H2O and EtOAc and acidified with 1N aqueous HCl, and then extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated to give the desired product.

reactant | (3-methoxyphenyl)acetonitrile | 6.79 mmol, 1.0 g | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | iodomethane | 6.79 mmol, 0.42 mL | IC | CH3I
reactant | sodium bis(trimethylsilyl)amide | 6.8 mmol, 1M, 6.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(3-Methoxy-phenyl)-propionitrile | COC=1C=C(C=CC1)C(C#N)C | C10H11NO
